US07659267B2
2-Cyclohexylidene-2,3-dihydro-4H-1,3-benzothiazin-4-one
2-[(Cyclohexylcarbonyl)thio]benzoic acid (14.77 g, 56 mmol) was suspended in acetone (150 ml). While stirring under ice cooling, triethylamine (5.10 g, 50 mmol) and then ethyl chloroformate (6.70 g, 62 mmol) were dropwise added to the suspension. After stirring at the same temperature for 40 minutes, an aqueous solution (20 ml) of sodium azide (5.00 g, 77 mmol) was dropwise added to the reaction mixture, followed by further stirring for an hour. The reaction mixture was diluted with water and the dilution was extracted with toluene (100 ml×3). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and then filtered. The toluene solution was cooled to about −15° C. and a solution (10 ml) of tributylphosphine (10.37 g, 51 mmol) in toluene was dropwise added to the solution. After completion of the dropwise addition, the reaction temperature was reverted to room temperature and the mixture was heated under reflux for 15 minutes. The reaction solution was concentrated under reduced pressure. The residue was applied to column chromatography using silica gel (150 g) to elute with hexane-ethyl acetate (2:1, v/v). The eluate was crystallized from acetone-ethyl acetate to give the title compound (1.16 g, 10%) as crystals.

reactant | 2-[(Cyclohexylcarbonyl)thio]benzoic acid | 56 mmol, 14.77 g | C1(CCCCC1)C(=O)SC1=C(C(=O)O)C=CC=C1 | C14H16O3S
reactant | triethylamine | 50 mmol, 5.10 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 62 mmol, 6.70 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 77 mmol, 20 ml, 5.00 g | [N-]=[N+]=[N-].[Na+]
reactant | tributylphosphine | 51 mmol, 10 ml, 10.37 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclohexylidene-2,3-dihydro-4H-1,3-benzothiazin-4-one | 1.16 g, 10% | C1(CCCCC1)=C1SC2=C(C(N1)=O)C=CC=C2 | C14H15NOS
